US07084166B2
Preparation of 1,1-di-(5-fluoroindol-3-yl)-butane (ST 1438)
This was prepared in the same way as described in example 2/2 starting from 5-fluoroindole and butyraldehyde. The reaction, however, was heated under reflux for 24 hours. The end product was isolated and purified by chromatography on an SiO2 column using a hexane:ethyl ether gradient ranging from 7:3 to 4:6 as the eluent. Yield 45%.

reactant | 5-fluoroindole | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | butyraldehyde | C(CCC)=O | C4H8O
product | 1,1-di-(5-fluoroindol-3-yl)-butane | Yield 45% | FC=1C=C2C(=CNC2=CC1)C(CCC)C1=CNC2=CC=C(C=C12)F | C20H18F2N2
